US09403835B2
Step 2: [2-((S)-azepan-4-yloxy)-4-fluoro-phenyl]-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-methanone formic acid salt
A solution of (S)-4-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-5-fluoro-phenoxy]-azepane-1-carboxylic acid tert-butyl ester (180 mg; 1.11 mmol; 1 eq.) in a 4M solution of HCl in 1,4-dioxane (2 mL) was stirred at room temperature for 16 hours. The residue was diluted with 0.1M NaOH and extracted with DCM (2×). The combined organic phase was dried over magnesium sulfate and concentrated in vacuo. Purification by mass directed preparative HPLC afforded the title compound (38 mg, 7%) as a yellow solid. 1H NMR (DMSO-d6) δ 8.34 (s, 1H), 7.37 (ddd, J=8.5, 6.8, 3.2 Hz, 1H), 7.12 (dd, J=11.7, 2.3 Hz, 1H), 6.88 (td, J=8.4, 2.3 Hz, 1H), 4.93-4.72 (m, 3H), 4.54 (d, J=15.1 Hz, 2H), 3.03-2.75 (m, 6.7H), 2.62 (s, 1.5H), 2.56 (s, 1.5H), 2.11-1.49 (m, 6.3H). HPLC (max plot) 90.3%, Rt 2.91 min. UPLC/MS: (MS+) 458.4 ([M+H]+).

reactant | (S)-4-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-5-fluoro-phenoxy]-azepane-1-carboxylic acid tert-butyl ester | 1.11 mmol, 180 mg, 1 eq. | C(C)(C)(C)OC(=O)N1CC[C@H](CCC1)OC1=C(C=CC(=C1)F)C(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)Cl)C)C1 | C28H33ClFN5O4
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | NaOH | 0.1M | [OH-].[Na+]
product | [2-((S)-azepan-4-yloxy)-4-fluoro-phenyl]-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-methanone formic acid salt | 38 mg, 7% | C(=O)O.N1CC[C@H](CCC1)OC1=C(C=CC(=C1)F)C(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)Cl)C)C1 | InChI=1S/C23H25ClFN5O2.CH2O2/c1-13-21(24)14(2)30-22(27-13)18-11-29(12-19(18)28-30)23(31)17-6-5-15(25)10-20(17)32-16-4-3-8-26-9-7-16;2-1-3/h5-6,10,16,26H,3-4,7-9,11-12H2,1-2H3;1H,(H,2,3)/t16-;/m0./s1
